US07713994B2
To a suspension of 6-bromo-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione (0.2 g, 0.45 mmol) in N,N-dimethylformamide (5 mL) is added N-triisopropylsilyl-3-pyrrole boronic acid (0.16 g, 0.54 mmol), followed by 300 μL of 2M aqueous cesium carbonate and tetrakis triphenylphosphine palladium (30 mg, 0.025 mmol). The reaction mixture is subjected to microwave heating at 180° C. for 300 seconds. The reaction mixture is then divided into 3 fractions and purified by C18 reverse phase HPLC. The pure fractions were combined and concentrated to yield 60 mg of 4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-6-(1H-pyrrol-3-yl)-4H-isoquinoline-1,3-dione.

reactant | 6-bromo-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione | 0.45 mmol, 0.2 g | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNC1=CC=C(C=C1)N1CCN(CC1)C | C21H21BrN4O2
reactant | N-triisopropylsilyl-3-pyrrole boronic acid | 0.54 mmol, 0.16 g | C(C)(C)[Si](N1C=C(C=C1)B(O)O)(C(C)C)C(C)C | C13H26BNO2Si
reactant | cesium carbonate | 2M, 300 μL | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-6-(1H-pyrrol-3-yl)-4H-isoquinoline-1,3-dione | 60 mg | CN1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC(C2=CC=C(C=C12)C1=CNC=C1)=O)=O | C25H25N5O2
